US04551469
1-(1,2,4-Triazol-1-yl)-2-phenyl-3-p-fluorophenyl-propan-2-ol
p-Fluorobenzyl chloride (0.1 mol) in dry deithyl ether (100 ml) was added dropwise to magnesium turnings (0.11 g atoms) and the solution stirred vigorously until refluxing occurred. When all the magnesium had reacted, the solution was refluxed for a further 1 hour and then cooled to room temperature. Phenacyl chloride (0.05 mol) in dry diethyl ether (50 ml) was added dropwise to the solution over 1 hour at such a rate as to maintain gentle reflux. The mixture was refluxed for 2 hours, cooled to room temperature and the mixture poured into ice/ammonium chloride solution to decompose the complex. The ethereal solution was washed several times with water (2×200 ml), dried (Na2SO4), and the solvent removed in vacuo to give, as a colourless oil, the crude chlorohydrin. The latter was dissolved in dimethylformamide (40 ml) and a solution of sodium triazole [prepared from sodium (0.05 g atoms) in methanol (20 ml) and 1,2,4-triazole (0.05 mol)] added dropwise at room temperature. After stirring at room temperature for 2 hours, the solution was warmed at 50° for 3 hours. The solvent was removed in vacuo and the mixture poured into water to give a crystalline solid which was recrystallised from petroleum ether/chloroform to give the title compound, m.p. 116-8°.

reactant | p-Fluorobenzyl chloride | 0.1 mol | FC1=CC=C(CCl)C=C1 | C7H6ClF
reactant | magnesium | 0.11 g | [Mg] | Mg
reactant | Phenacyl chloride | 0.05 mol | C(C(=O)C1=CC=CC=C1)Cl | C8H7ClO
reactant | sodium triazole | 0.05 mol, 20 ml, 0.05 g | N1N=NC=C1.[Na]
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-(1,2,4-Triazol-1-yl)-2-phenyl-3-p-fluorophenyl-propan-2-ol | N1(N=CN=C1)CC(CC1=CC=C(C=C1)F)(O)C1=CC=CC=C1 | C17H16FN3O
